US07405210B2
5-Cyano-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S)-(4-fluorobenzyl)-2-(4-hydroxypiperidin-1-yl)-2-oxoethyl]amide
To a solution of 2-(S)-amino-3-(4-fluorophenyl)-1-(4-hydroxypiperidin-1-yl)propan-1-one hydrochloride (Preparation 20, 0.036 g, 0.118 mmol) in DMF (anhydrous, 5 mL) was added DIPEA (0.061 mL, 0.353 mmol) then carboxylic acid (Preparation 62, 0.020 g, 0.107 mmol). To the stirred solution was added HOBt.H2O (0.016 g, 0.107 mmol) then, after 10 min, EDCI (0.025 g, 0.128 mmol). The reaction mixture was stirred for 18 h then all volatiles were removed in vacuo. The residue was partitioned between CH2Cl2 (30 mL) and water (20 mL). The layers were separated then the aqueous was extracted with CH2Cl2 (2×30 mL). The combined organics were washed with brine (50 mL), dried (MgSO4), filtered and concentrated in vacuo. The residue was dissolved in methanol then adsorbed onto silica gel. Purification via flash column chromatography (SiO2, methanol:dichloromethane, 7:93, v/v) gave the title compound as a white solid. δH (d6 DMSO): 1.05–1.32 (2H, m), 1.49–1.72 (2H, m), 2.86–3.42 (4H, m), 3.53–3.87 (2.5H, m), 3.93–4.05 (0.5H, m), 4.69 (1H, d), 5.07–5.21 (1H, m), 6.97–7.12 (2H, m), 7.26–7.39 (2H, m), 7.47 (1H, s), 8.41 (1H, s), 8.81 (1H, s), 9.01–9.41 (1H, m), 12.64 (1H, s); m/z (ES+)=436 [M+H]+; RT=1.51 min.

reactant | 2-(S)-amino-3-(4-fluorophenyl)-1-(4-hydroxypiperidin-1-yl)propan-1-one hydrochloride | 0.118 mmol, 0.036 g | Cl.N[C@H](C(=O)N1CCC(CC1)O)CC1=CC=C(C=C1)F
reactant | DIPEA | 0.353 mmol, 0.061 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | H2O | 0.107 mmol, 0.016 g | O | H2O
reactant | EDCI | 0.128 mmol, 0.025 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-Cyano-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid [1-(S)-(4-fluorobenzyl)-2-(4-hydroxypiperidin-1-yl)-2-oxoethyl]amide | FC1=CC=C(C[C@@H](C(=O)N2CCC(CC2)O)NC(=O)C2=CC=3C(=CN=C(C3)C#N)N2)C=C1 | C23H22FN5O3
